US05200417
1-[(2-Methylphenylmethyl)amino]-3,4-dihydroisoquinoline hydroiodide.
1-Methylthio-3,4-dihydroisoquinoline hydroiodide (1.52 g, 0.005 mol) was dissolved in a solution of ethanol (50 ml) containing 2-methylbenzylamine (0.61 g, 0.005 mol). The colourless solution was heated at reflux temperature for six hours with effluent gases being passed through a CHLOROS trap. The solution was then cooled and stood in the refrigerator overnight to give white crystals (1.38 g). This material was crystallised from methanol/ ethanol to give the title compound (1.06 g) as its hydroiodide salt, m.p. 241°-243°.

reactant | 1-Methylthio-3,4-dihydroisoquinoline hydroiodide | 0.005 mol, 1.52 g | I.CSC1=NCCC2=CC=CC=C12
reactant | 2-methylbenzylamine | 0.005 mol, 0.61 g | CC1=C(CN)C=CC=C1 | C8H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[(2-Methylphenylmethyl)amino]-3,4-dihydroisoquinoline hydroiodide | 1.38 g | I.CC1=C(C=CC=C1)CNC1=NCCC2=CC=CC=C12 | InChI=1S/C17H18N2.HI/c1-13-6-2-3-8-15(13)12-19-17-16-9-5-4-7-14(16)10-11-18-17;/h2-9H,10-12H2,1H3,(H,18,19);1H
